US09263681B2
Bis(2,4-dimethylphenyl)amine (Compound 14)
A mixture of 2,4-dimethylaniline (6.05 g, 50 mmol), 2,4-dimethylbromobenzene (9.25 g, 50 mmol), Pd(dppf)Cl2 (0.88 g, 1.2 mmol), sodium tert-butoxide (KOBut) (9.6 g, 0.1 mmol) in toluene (120 mL) was degassed and heated at 100° C. overnight. The resulting mixture was worked up with dichloromethane/brine, dried over Na2SO4, loaded on silica gel and purified by flash column using eluents of hexanes to hexanes/dichloromethane 9:1. After removal of solvent, a liquid was obtained (9.45 g, in 84% yield).

reactant | 2,4-dimethylaniline | 50 mmol, 6.05 g | CC1=C(N)C=CC(=C1)C | C8H11N
reactant | 2,4-dimethylbromobenzene | 50 mmol, 9.25 g | CC1=C(C=CC(=C1)C)Br | C8H9Br
reactant | sodium tert-butoxide | 0.1 mmol, 9.6 g | CC(C)([O-])C.[Na+]
solvent | toluene | 120 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(dppf)Cl2 | 1.2 mmol, 0.88 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | Bis(2,4-dimethylphenyl)amine | 84% yield | CC1=C(C=CC(=C1)C)NC1=C(C=C(C=C1)C)C | C16H19N
